US06525042B1
1-[(Benzimidazol-5-yl)carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride
In a similar manner to Example 3, 4 or 10 except for the use of methyl N-triphenylmethyl-5-benzimidazolecarboxylate and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | methyl N-triphenylmethyl-5-benzimidazolecarboxylate | C1(=CC=CC=C1)C(N1C=NC2=C1C=CC(=C2)C(=O)OC)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H22N2O2
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[(Benzimidazol-5-yl)carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.N1=CNC2=C1C=CC(=C2)C(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl | InChI=1S/C22H19ClN4O3S.ClH/c23-18-4-1-16-12-19(5-2-15(16)11-18)31(29,30)27-9-7-26(8-10-27)22(28)17-3-6-20-21(13-17)25-14-24-20;/h1-6,11-14H,7-10H2,(H,24,25);1H
